US07435735B2
Step 2: N2-Benzyloxycarbonyl-N1-(2,2-dimethoxyethyl)-N1-(4-fluorobenzyl)-glycinamide
To a solution of N-(2,2-dimethoxyethyl)-N-(4-fluorobenzyl)amine (50.6 g, 237.3 mmol), N-CBZ-glycine (54.6 g, 260.8 mmol), EDC (50.0 g, 260.8 mmol), and HOBt (4.2 g, 27 mmol) in anhydrous DMF (500 mL), N,N-diisopropylethylamine (˜10 mL) was added until the solution is about pH 7. The reaction mixture was stirred at room temperature overnight and concentrated under vacuum. The residue was partitioned between dichloromethane (1 L) and water (250 mL). The organic extract was washed with brine, dried over anhydrous sodium sulfate, filtered, and concentrated under vacuum to provide the title compound.

reactant | N-(2,2-dimethoxyethyl)-N-(4-fluorobenzyl)amine | 237.3 mmol, 50.6 g | COC(CNCC1=CC=C(C=C1)F)OC | C11H16FNO2
reactant | N-CBZ-glycine | 260.8 mmol, 54.6 g | C(=O)(OCC1=CC=CC=C1)NCC(=O)O | C10H11NO4
reactant | EDC | 260.8 mmol, 50.0 g
reactant | HOBt | 27 mmol, 4.2 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 500 mL | CN(C)C=O | C3H7NO
solvent | N,N-diisopropylethylamine | ˜10 mL | C(C)(C)N(C(C)C)CC | C8H19N
product | N2-Benzyloxycarbonyl-N1-(2,2-dimethoxyethyl)-N1-(4-fluorobenzyl)-glycinamide | C(C1=CC=CC=C1)OC(=O)NCC(=O)N(CC1=CC=C(C=C1)F)CC(OC)OC | C21H25FN2O5
